US07390923B2
3-(4-Fluorophenylamino)-2-hydroxy-2-methyl-N-(3-methyl-4-nitrophenyl)propionamide
A mixture of 2-methyloxirane-2-carboxylic acid (3-methyl-4-nitrophenyl)amide (0.2 g, 0.85 mmol), 4-fluoroaniline (0.18 g, 1.7 mmol) and sodium perchlorate (0.21 g, 1.7 mmol) in 2 ml of acetonitrile was boiled under reflux for 6 hours. After a workup of the reaction mixture, the crude product was purified by flash chromatography (dichloromethane-1% methanol). 1H NMR (400 MHz, DMSO-d6): 1.41 (3H, s), 2.51 (3H, s), 3.10 (1H, dd, J=12.7 Hz, J=4.6 Hz), 3.41 (1H, dd, J=12.7 Hz, J=7.7 Hz), 5.26 (1H, m), 6.02 (1H, s), 6.62-6.66 (2H, m), 6.84-6.89 (2H, m), 7.79-7.83 (2H, m), 8.02 (1H, d, J=8.9 Hz), 9.99 (1H, s).

reactant | 2-methyloxirane-2-carboxylic acid (3-methyl-4-nitrophenyl)amide | 0.85 mmol, 0.2 g | CC=1C=C(C=CC1[N+](=O)[O-])NC(=O)C1(OC1)C | C11H12N2O4
reactant | 4-fluoroaniline | 1.7 mmol, 0.18 g | FC1=CC=C(N)C=C1 | C6H6FN
reactant | sodium perchlorate | 1.7 mmol, 0.21 g | Cl(=O)(=O)(=O)[O-].[Na+]
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 3-(4-Fluorophenylamino)-2-hydroxy-2-methyl-N-(3-methyl-4-nitrophenyl)propionamide | FC1=CC=C(C=C1)NCC(C(=O)NC1=CC(=C(C=C1)[N+](=O)[O-])C)(C)O | C17H18FN3O4
